US04296113
The 3-(acetylthio)-2-(methylthio)propionic acid is refluxed in thionyl chloride for two hours. The reaction mixture is distilled to remove excess thionyl chloride and the product is distilled in vacuo to yield 3-(acetylthio)-2-(methylthio)propionic acid chloride.

reactant | 3-(acetylthio)-2-(methylthio)propionic acid | C(C)(=O)SCC(C(=O)O)SC | C6H10O3S2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-(acetylthio)-2-(methylthio)propionic acid chloride | C(C)(=O)SCC(C(=O)Cl)SC | C6H9ClO2S2
